US07906516B2
7.2 300 ml of 4N hydrochloric acid in dioxane are added to a solution of 15 g (37 mmol) of tert-butyl (2R,4R)-4-hydroxy-2-[4-(3-oxomorpholin-4-yl)phenylcarbamoyl]pyrrolidine-1-carboxylate in 200 ml of dioxane, and the mixture is stirred at room temperature for 12 hours. The precipitate is subsequently filtered off, washed with 50 ml of dioxane and 50 ml of diethyl ether and dried in a desiccator, giving 12.64 g (100%) of N-[4-(3-oxomorpholin-4-yl)phenyl]-(2R,4R)-4-hydroxypyrrolidine-2-carboxamide hydrochloride as a white powder. ESI 306.

reactant | hydrochloric acid | 4N | Cl | ClH
reactant | tert-butyl (2R,4R)-4-hydroxy-2-[4-(3-oxomorpholin-4-yl)phenylcarbamoyl]pyrrolidine-1-carboxylate | 37 mmol, 15 g | O[C@@H]1C[C@@H](N(C1)C(=O)OC(C)(C)C)C(NC1=CC=C(C=C1)N1C(COCC1)=O)=O | C20H27N3O6
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | dioxane | 200 ml | O1CCOCC1 | C4H8O2
product | N-[4-(3-oxomorpholin-4-yl)phenyl]-(2R,4R)-4-hydroxypyrrolidine-2-carboxamide hydrochloride | 12.64 g, 100% | Cl.O=C1N(CCOC1)C1=CC=C(C=C1)NC(=O)[C@@H]1NC[C@@H](C1)O | InChI=1S/C15H19N3O4.ClH/c19-12-7-13(16-8-12)15(21)17-10-1-3-11(4-2-10)18-5-6-22-9-14(18)20;/h1-4,12-13,16,19H,5-9H2,(H,17,21);1H/t12-,13-;/m1./s1
